US07935830B2
Step B. N-Ethylcarbamate-5-hydroxy-6-iodo-8-methyl-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole
BBr3 (0.7 mL, 0.7 mmol, 1 M in CH2Cl2) was added to a solution of N-ethylcarbamate-5-methoxy-6-iodo-8-methyl-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole (120 mg, 0.3 mmol) at 0° C. The reaction mixture was stirred overnight from 0° C. to room temperature and quenched with H2O. The solution was filtered through an Extrelut column, the column was washed with CH2Cl2, and the filtrate was concentrated. The crude product was obtained without further purification. MS calculated for C15H181NO3+H: 388, observed: 388.

reactant | BBr3 | 0.7 mmol, 1 M, 0.7 mL | B(Br)(Br)Br | BBr3
reactant | N-ethylcarbamate 5-methoxy-6-iodo-8-methyl-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole | 0.3 mmol, 120 mg | C(C)NC([O-])=O.COC=1C(=CC=2C(C3C(CNC3)C2C1)C)I
product | N-Ethylcarbamate 5-hydroxy-6-iodo-8-methyl-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole | C(C)NC([O-])=O.OC=1C(=CC=2C(C3C(CNC3)C2C1)C)I | InChI=1S/C12H14INO.C3H7NO2/c1-6-7-2-11(13)12(15)3-8(7)10-5-14-4-9(6)10;1-2-4-3(5)6/h2-3,6,9-10,14-15H,4-5H2,1H3;4H,2H2,1H3,(H,5,6)/p-1
